US07473784B2
A solution of 2-(isopropylamino)thiazolo[4,5-c]pyridine-6-carbaldehyde (presumed 0.234 mmol, 1.0 eq.), 1-fluoro-2-(isocyano(tosyl)methyl)benzene (0.079 g, 0.273 mmol, 1.2 eq.), and K2CO3 (0.0654 g, 0.473 mmol, 2.0 eq.) in EtOH (2.4 mL) was refluxed for 4.75 hr. After cooling to room temperature, the reaction mixture was concentrated in vacuo, and the residue was taken up in EtOAc and water. After separation of the layers, the organic layer was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo. MeOH was added to the residue, and the mixture was subjected to autoprep. The appropriate fractions were collected, and NaHCO3 (s) was added. The solution was then concentrated in vacuo not to dryness and extracted with EtOAc (3×). The organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo to give 6-(4-(2-fluorophenyl)oxazol-5-yl)-N-isopropylthiazolo[4,5-c]pyridin-2-amine as a light yellow solid (0.0243 g, 29% yield). LC/MS (MH)=355.16.

reactant | 2-(isopropylamino)thiazolo[4,5-c]pyridine-6-carbaldehyde | 0.234 mmol, 1.0 eq. | C(C)(C)NC=1SC2=C(C=NC(=C2)C=O)N1 | C10H11N3OS
reactant | 1-fluoro-2-(isocyano(tosyl)methyl)benzene | 0.273 mmol, 0.079 g, 1.2 eq. | FC1=C(C=CC=C1)C(S(=O)(=O)C1=CC=C(C)C=C1)[N+]#[C-] | C15H12FNO2S
reactant | K2CO3 | 0.473 mmol, 0.0654 g, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 2.4 mL | CCO | C2H6O
product | 6-(4-(2-fluorophenyl)oxazol-5-yl)-N-isopropylthiazolo[4,5-c]pyridin-2-amine | 0.0243 g, 29% yield | FC1=C(C=CC=C1)C=1N=COC1C1=CC2=C(C=N1)N=C(S2)NC(C)C | C18H15FN4OS
